US04670562
8-Chloro-1,10a-dihydropyrrolo[1,2-b]isoquinoline-1,10[2H,5H]-dione oxime
A stirred suspension of 12.65 g of 8-chloro-1,10a-dihydropyrrolo[1,2-b]isoquinoline-3,10[2H,5H]-dione (prepared in substantially the same manner as the 7-chloro compound in Example 12, m.p. 130°-136° C.) in 95% ethanol (85 ml) was treated with a premixed solution prepared from sodium acetate trihydrate (14.56 g) in water (48 ml) and hydroxylamine hydrochloride (7.44 g) in water (48 ml). The stirred suspension was heated to reflux, during which a solution formed followed by separation of a crystalline precipitate. After 2 hours of refluxing, the mixture was cooled and the precipitate was collected and washed twice with 50% aqueous ethanol. Drying at 40° C. overnight in vacuo gave 10.95 g of a solid, m.p. 227.5°-230.5° C. Recrystallization of the solid from n-propanol (300 ml) afforded 8.56 g of crystals, m.p. 229°-235° C.

reactant | 8-chloro-1,10a-dihydropyrrolo[1,2-b]isoquinoline-3,10[2H,5H]-dione | 12.65 g | ClC1=CC=2C(C3N(CC2C=C1)C(CC3)=O)=O | C12H10ClNO2
reactant | sodium acetate trihydrate | 14.56 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 7.44 g | Cl.NO
solvent | ethanol | 85 ml | C(C)O | C2H6O
solvent | water | 48 ml | O | H2O
solvent | water | 48 ml | O | H2O
product | 8-Chloro-1,10a-dihydropyrrolo[1,2-b]isoquinoline-1,10[2H,5H]-dione oxime | 10.95 g | ClC1=CC=2C(C3N(CC2C=C1)CCC3=NO)=O | C12H11ClN2O2
